US05371064
A mixture of methyl 3-fluoro-2-methylsulphenylbenzoate (14.0 g) and 3-chloroperbenzoic acid (50-60%, 55.0 g) in dichloromethane was stirred at 25° C. for 1.5 hours. 1M Sodium metabisulphite was added and the organic phase washed with sodium bicarbonate and brine, dried over sodium sulphate, filtered and evaporated. The product was recrystallised from ethyl acetate to give 8.6 g of methyl 3-fluoro-2-methylsulphonylbenzoate as white crystals, m.p. 116.2° C.

reactant | methyl 3-fluoro-2-methylsulphenylbenzoate | 14.0 g | FC=1C(=C(C(=O)OC)C=CC1)SC | C9H9FO2S
reactant | 3-chloroperbenzoic acid | 55.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Sodium metabisulphite | 1M | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 3-fluoro-2-methylsulphonylbenzoate | 8.6 g | FC=1C(=C(C(=O)OC)C=CC1)S(=O)(=O)C | C9H9FO4S
